US05736568
A solution of borane/THF (80 ml, 1M solution) was added to a solution of 2-[2-(N-benzyl-N-methylamino) ethoxy]-6-chlorobenzonitrile (6.02 g) in THF (60 ml) at ambient temperature under nitrogen with stirring. The mixture was stirred at ambient temperature for 4 hours and then boiled under reflux for 1 hour. The mixture was evaporated to dryness and the residue was heated on a steam bath under nitrogen for 1 hour and then 1M hydrochloric acid (100 ml) was added and the mixture was heated for a further 2 hours. The mixture was cooled, washed with ethyl acetate, basified with concentrated sodium hydroxide solution and extracted with dichloromethane to give an oil. The oil was dissolved in ether and treated with ethereal hydrogen chloride to give a solid which was collected by filtration. The solid was stirred with 2M sodium hydroxide solution and then extracted with dichloromethane to give an oil which was distilled under vacuum. The oil which boiled at 140° C. at 0.04 mbar was dissolved in ether and treated with ethereal hydrogen chloride. The precipitated solid was collected by filtration and dried to give 2-[2-(N-benzyl-N-methylamino)ethoxy]-6-chlorobenzylamine, m.p. 85° C.

reactant | borane THF | 1M, 80 ml | B.C1CCOC1
reactant | 2-[2-(N-benzyl-N-methylamino) ethoxy]-6-chlorobenzonitrile | 6.02 g | C(C1=CC=CC=C1)N(C)CCOC1=C(C#N)C(=CC=C1)Cl | C17H17ClN2O
reactant | hydrogen chloride | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-[2-(N-benzyl-N-methylamino)ethoxy]-6-chlorobenzylamine | C(C1=CC=CC=C1)N(C)CCOC1=C(CN)C(=CC=C1)Cl | C17H21ClN2O
